US04304896
Synthesis of 2,7-Bis(3,4-Dicyanophenoxy)Naphthalene
A mixture of 4.0 g (0.025 mol) of 2,7-dihydroxynaphthalene (2.2 g, 0.054 mol) of 50% aqueous sodium hydroxide, 30 ml of dimethyl sulfoxide and 25 ml of benzene was heated at reflux under a nitrogen atmosphere for 4 hours. The water was azeotroped from the mixture with a Dean-Stark trap. The reaction content was cooled to room temperature and 8.7 g (0.05 mol) of 4-nitrophthalonitrile was added in one sum. The resulting mixture was stirred for 15 hours at room temperature and was then poured into 150 ml of water. The light-brown precipitate was collected by suction filtration, washed with water, dried at reduced pressure, and washed with hot absolute ethanol to yield 6.1 g (59%) of the desired product, m.p. 201°-204° C.

reactant | 2,7-dihydroxynaphthalene | 0.025 mol, 4.0 g | OC1=CC2=CC(=CC=C2C=C1)O | C10H8O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
reactant | 4-nitrophthalonitrile | 0.05 mol, 8.7 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
solvent | water | 150 ml | O | H2O
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 2,7-Bis(3,4-Dicyanophenoxy)Naphthalene | 6.1 g, 59% | C(#N)C=1C=C(OC2=CC3=CC(=CC=C3C=C2)OC2=CC(=C(C=C2)C#N)C#N)C=CC1C#N | C26H12N4O2
